2125-01-24 10:08:00 Physician Attending Progress Note
Chief Complaint: urosepsis, pyelonephritis
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 29 yo female with history of paraplegia and chronic bladder
   dysfunction,  recent placement of R ureteral stent, admit for elective
   procedure to provide stent replacement and lithotripsy with post
   procedure urosepsis.
   Admitted to [**Hospital Unit Name 44**] after diagnosis or pyleonepphritis made at
   nephroscopy.  Febrile, hypotensive, tachy in PACU. Got 4L IVF, abx (amp
   + gent)  and transferred to [**Hospital Unit Name 44**].
   24 Hour Events
   - antibx switched to vanco/ceftaz
   - normotensive overnight but with BP drop this am
 bolused with NS IVF
   with transient response
                                           History obtained from Medical records
   Allergies:
   Latex
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2125-1-24**] 04:40 AM
   Ceftazidime - [**2125-1-24**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   IVC filter
   Toricollis
   Neurogenic bladder
   [**Hospital1 **]-polar disorder
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia, hypotensive
   Respiratory: Tachypnea
   Gastrointestinal: Abdominal pain
   Genitourinary: Foley
   Flowsheet Data as of  [**2125-1-24**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 98 (95 - 124) bpm
   BP: 86/45(54) {78/39(50) - 111/66(75)} mmHg
   RR: 11 (8 - 21) insp/min
   SpO2: 97%
   Height: 64 Inch
             Total In:
                                                                  5,550 mL
                                                                  2,155 mL
   PO:
             TF:
   IVF:
                                                                    600 mL
                                                                  2,155 mL
   Blood products:
   Total out:
                                                                  1,855 mL
                                                                    495 mL
   Urine:
                                                                    385 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,695 mL
                                                                  1,660 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///37/
   Physical Examination
   General Appearance: somnolent
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ), small volumes
   Abdominal: Soft, No(t) Non-tender, Tender: lower quadrants
   Musculoskeletal: toriticollis
   Skin:  Not assessed
   Neurologic: Responds to: voice, unable to cooperate with exam,
   somnolent but easily aroused
   Labs / Radiology
   9.3 g/dL
   337 K/uL
   85 mg/dL
   0.6 mg/dL
   37 mEq/L
   4.5 mEq/L
   9 mg/dL
   97 mEq/L
   140 mEq/L
   29.1 %
   22.8 K/uL
        [image002.jpg]
                             [**2125-1-24**]  03:15 AM
   WBC
   22.8
   Hct
   29.1
   Plt
   337
   Cr
   0.6
   Glucose
   85
   Other labs: Differential-Neuts:79.0 %, Band:9.0 %, Lymph:8.0 %,
   Mono:4.0 %, Eos:0.0 %
   Imaging: None
   Microbiology: U/A 482 WBC. nitrite + Cx pending
   Bld Cx pending
   Assessment and Plan
   29 yo female with history of paraplegia and chronic bladder
   dysfunction, recent placement of R ureteral stent, admit for elective
   procedure to provide stent replacement and lithotripsy with post
   procedure urosepsis.
 SEPSIS WITHOUT ORGAN DYSFUNCTION
urosepsis, pyelo
   Continue Vanco ceftaz, f/u cx data
   Some hypotension this am, ? med related vs sepsis
now af
   1 L fluid bolus and reasses need for vasopressors post fluid, trend
   lactate
   Central access
 H/O NEPHROLITHIASIS (KIDNEY STONES)
   WBC increasing, concern for ongoing nidus of infection. Urology
   following.
   Pain control
   #leukocytosis
as above
   # anemia
anemia w/u, h/h near baseline in setting of IVFs
   # Respiratory
   Suspect chronic CO2 retention [**12-23**] restriction. Will check ABG today to
   asses for hypercarbia given somnolence
   # Delta MS
   Meds vs. Sepsis vs. hypercarbia. Continue abx, check ABG as above
   # [**Hospital1 **]-polar disorder
   Sitter, home regimen.
   #chronic pain/torticolus
continue home regimen but monitor closely as
   methadone and muscle relactants likely impacted BP and MS
   ICU Care
   Nutrition:
   Comments: NPO for now.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   16 Gauge - [**2125-1-23**] 08:00 PM
   20 Gauge - [**2125-1-23**] 08:00 PM
   Picc or central line placement
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45
   Patient is critically ill

2125-01-24 11:10:00 Physician Resident Progress Note
Chief Complaint: urosepsis
   24 Hour Events:
   late this morning, patient w/ low sbp to 85, imroved w/ fluid bolus.  1
   hr later, back to 85.  Difficult to assess if patient is symptomatic.
   Allergies:
   Latex
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2125-1-24**] 04:40 AM
   Ceftazidime - [**2125-1-24**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Ear, Nose, Throat: Dry mouth
   Respiratory: Dyspnea
   Gastrointestinal: Abdominal pain
   Genitourinary: Dysuria, Foley
   Neurologic: somnalence, right sided paresis, chronic pain, toricollis
   Flowsheet Data as of  [**2125-1-24**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 98 (95 - 124) bpm
   BP: 86/45(54) {78/39(50) - 111/66(75)} mmHg
   RR: 11 (8 - 21) insp/min
   SpO2: 97%
   Height: 64 Inch
             Total In:
                                                                  5,550 mL
                                                                  3,235 mL
   PO:
             TF:
   IVF:
                                                                    600 mL
                                                                  3,235 mL
   Blood products:
   Total out:
                                                                  1,855 mL
                                                                    495 mL
   Urine:
                                                                    385 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,695 mL
                                                                  2,740 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.34/74/80.[**Numeric Identifier 248**]/37/9
   Physical Examination
   General Appearance: No acute distress, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: toricollis
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: No(t) Symmetric), (Breath Sounds:
   Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Paralyzed, Tone: Not assessed
   Labs / Radiology
   337 K/uL
   9.3 g/dL
   85 mg/dL
   0.6 mg/dL
   37 mEq/L
   4.5 mEq/L
   9 mg/dL
   97 mEq/L
   140 mEq/L
   24
   22.8 K/uL
        [image002.jpg]
                             [**2125-1-24**]  03:15 AM
                             [**2125-1-24**]  10:21 AM
   WBC
   22.8
   Hct
   29.1
   24
   Plt
   337
   Cr
   0.6
   TCO2
   42
   Glucose
   85
   Other labs: Differential-Neuts:79.0 %, Band:9.0 %, Lymph:8.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L
   Assessment and Plan
   A/P Pt is a 29 y/o female s/p MVA, toricollus, recent admit w/
   pyelonephritis w/ placement of urethral stent and treatment w/
   amp/gent-->cipro, readmitted for elective cystoscopy, right retrograde
   ureteroscopy and right stent placement, w/ frank pus drainage, becoming
   febrile and hypotensive.
   # Urosepsis: Purulent drainage uring ureteroscopy and stent
   replacement, w/ fever, hypotension, and tachycardia following urologic
   manipulation. Acute urosepsis likely caused from transient bacteremia.
   Patient w/ continued low grade temperature and elevated WBC.  BP stable
   atter aggressive fluid recussitation.  Treatment geared towards acute
   pyelonephritis complicated w/ an indwelling hardware.  Now BP remains
   low unresponsive to fluids and WBC that continues to increase
   -- f/u urine Cx and sensitivities
   -- f/u blood cx and sensitivities
   -- coverage w/ vanc/ceftaz until culture data returns
   -- tylenol for fever
   -- continue to monitor pressures, fluid boluses PRN hypotension, may
   need to start pressors
   # Toricollus:
   -- continue patients outpatient baclofen for spastic paralysis.
   -- continue outpatient gabapentin / methadone for pain
   -- continue tizanidine
   # Kidney stone: had to abort lithotripsy [**12-23**] to pyenonephritis.
   continue to monitor to see if needs increased medication for pain
   control. Will avoid at this time.   If patient w/ continued evidence of
   infection, may need to discuss stone removal w/ urology
   # Psych: continue depakote, prozac, and valium
   maintian on 1:1 for attention to constant patient needs
   -touch base w/ patients mother to see if is near baseline. ABG shows
   asidosis and hypercapnea c/w CO2 retainer [**12-23**] to body hapitus.
   # Anemai: Hct of 29, baseline 34.  Will check anemia work up.
   ICU Care
   Nutrition:
   Comments: sips, advanced as toelrated
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   16 Gauge - [**2125-1-23**] 08:00 PM
   20 Gauge - [**2125-1-23**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2125-01-25 07:55:00 Physician Resident Progress Note
Chief Complaint: Urosepsis
   24 Hour Events:
   - hypotensive in am, initially placed on dopamine, switched to levophed
   following PICC placement; d/c'd overnight and pressures trended back
   down to high 80s/90s
   - grew out pseudomonas from urine
   Allergies:
   Latex
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2125-1-24**] 08:00 PM
   Ceftazidime - [**2125-1-25**] 12:14 AM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-25**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.4
C (99.3
   HR: 86 (68 - 125) bpm
   BP: 97/57(67) {78/41(50) - 137/82(93)} mmHg
   RR: 11 (9 - 23) insp/min
   SpO2: 97%
   Height: 64 Inch
             Total In:
                                                                  5,167 mL
                                                                    173 mL
   PO:
                                                                  1,450 mL
             TF:
   IVF:
                                                                  3,717 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  3,365 mL
                                                                  1,100 mL
   Urine:
                                                                  3,365 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,802 mL
                                                                   -927 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.33/77/46/40/10
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious
   Head, Ears, Nose, Throat: coricollollius
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: No(t) Symmetric), (Breath Sounds:
   Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, more altert than
   yesterday, shouting and aggitated
   Labs / Radiology
   306 K/uL
   9.0 g/dL
   69 mg/dL
   0.7 mg/dL
   40 mEq/L
   3.8 mEq/L
   8 mg/dL
   97 mEq/L
   141 mEq/L
   27.0 %
   18.3 K/uL
        [image002.jpg]
                             [**2125-1-24**]  03:15 AM
                             [**2125-1-24**]  10:21 AM
                             [**2125-1-24**]  12:20 PM
                             [**2125-1-25**]  04:00 AM
   WBC
   22.8
   18.3
   Hct
   29.1
   24
   27.0
   Plt
   337
   306
   Cr
   0.6
   0.7
   TCO2
   42
   42
   Glucose
   85
   69
   Other labs: Differential-Neuts:79.0 %, Band:9.0 %, Lymph:8.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L, Mg++:1.8 mg/dL, PO4:3.4
   mg/dL
   Fluid analysis / Other labs: Iron: Pnd
   Ferritn: Pnd
   TRF: Pnd
   Color Yellow
   Appear Hazy
   SpecGr 1.007
   pH   5.0
   Urobil Neg
   Bili Neg
   Leuk Lg
   Bld Lg
   Nitr Neg
   Prot Tr
   Glu Neg
   Ket Neg
   RBC 297
   WBC 29
   Bact Few
   Yeast None
   Epi 0
   Microbiology: Kidney Cx:  PSEUDOMONAS AERUGINOSA.    10,000-100,000
   ORGANISMS/ML..
    >= 3 colony types
   bCx pending x 4
   Ucx
   Assessment and Plan
   A/P Pt is a 29 y/o female s/p MVA, toricollus, recent admit w/
   pyelonephritis w/ placement of urethral stent and treatment w/
   amp/gent-->cipro, readmitted for elective cystoscopy, right retrograde
   ureteroscopy and right stent placement, w/ frank pus drainage, becoming
   febrile and hypotensive.
   # Urosepsis: Purulent drainage uring ureteroscopy and stent
   replacement, w/ fever, hypotension, and tachycardia following urologic
   manipulation. Acute urosepsis likely cause from transient bacteremia.
   Treatment geared towards acute pyelonephritis complicated w/ an
   indwelling hardware.  Patient was hypotensive yesterday, started on
   dopamine, then switched to levo once access established.  Pressures in
   80s overnight while off pressors, so restarted.  Now off pressors, w/
   SBP in mid 90s, patient asx.
   -- f/u urine Cx showing pseudamononas, ecoli, enterococcus.  Cont
   vanc/ceftaz, switch from ceftaz to zosyn in clinically worsens.  If
   enterococcus amp sensitive, can d/c vanc.
   -- f/u blood cx and sensitivities
   -- tylenol for fever
   -- continue to monitor pressures, patient's blood pressure currently
   stable w/ aggressive fluid recessitation and off  pressors.  [**Month (only) 60**] need
   to add pressors back on if remains < 90 systolic.
   #VT/SVT w/ abarency: not not adequatly captured on EKG, appears more
   like VT.  Electroyletes repleated, PICC in SVC, taken off levophed, CE
   sent.  Resolved w/ these measures.  Patient asx throughout episodes,
   adequate mentation and pulse.  Getting an Echo to evaluate for
   structural heart disease, especially given patients low O2 sats and
   hypercapnea on ABG.
   # Toricollus:
   -- continue patients outpatient baclofen for spastic paralysis.
   -- continue outpatient gabapentin / methadone for pain
   -- continue tizanidine
   # Kidney stone: had to abort lithotripsy [**12-23**] to pyenonephritis.
   continue to monitor to see if needs increased medication for pain
   control. Will avoid at this time.
   # Psych: continue depakote, prozack, and valium
   maintian on 1:1 for attention to constant patient needs
   # FEN: replete K+ / Mg+
   Regular Diet
   # PPx: PPI/ bowel regimen, sc heparin
   # Full Code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2125-1-23**] 08:00 PM
   20 Gauge - [**2125-1-23**] 08:00 PM
   PICC Line - [**2125-1-24**] 02:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-01-25 10:00:00 Physician Attending Progress Note
Chief Complaint: urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  29 yo female with history of paraplegia and chronic bladder
   dysfunction, recent placement of R ureteral stent, admit for elective
   procedure to provide stent replacement and lithotripsy with post
   procedure urosepsis.
   24 Hour Events:
   picc placed, levophed ggt for hypotension, weaned to off yesterday
   ectopy  NSVT on montior
   pseudomonas + urine cx
   increased alertness and agitation overnight
 PICC LINE - START [**2125-1-24**] 02:30 PM
   new PICC inserted by IV nurse,position confirmed with CXR
 BLOOD CULTURED - At [**2125-1-24**] 03:26 PM
 URINE CULTURE - At [**2125-1-24**] 03:26 PM
 BLOOD CULTURED - At [**2125-1-25**] 05:09 AM
   History obtained from hosue staff
   Allergies:
   Latex
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2125-1-25**] 12:14 AM
   Vancomycin - [**2125-1-25**] 08:08 AM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-25**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.8
C (98.3
   HR: 122 (68 - 134) bpm
   BP: 125/99(105) {71/37(43) - 137/99(105)} mmHg
   RR: 29 (9 - 29) insp/min
   SpO2: 87%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  5,167 mL
                                                                    462 mL
   PO:
                                                                  1,450 mL
             TF:
   IVF:
                                                                  3,717 mL
                                                                    462 mL
   Blood products:
   Total out:
                                                                  3,365 mL
                                                                  1,320 mL
   Urine:
                                                                  3,365 mL
                                                                  1,320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,802 mL
                                                                   -858 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 87%
   ABG: 7.33/77/46/40/10
   Physical Examination
   General Appearance: Well nourished, Anxious, torticolus
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: No(t) Symmetric), (Breath Sounds:
   Clear : )
   Abdominal: Soft, Bowel sounds present
   Skin warm
   Neurologic: Responds to:more alert, responds to questions, uncoop with
   neuro exam
   Labs / Radiology
   9.0 g/dL
   306 K/uL
   69 mg/dL
   0.7 mg/dL
   40 mEq/L
   3.8 mEq/L
   8 mg/dL
   97 mEq/L
   141 mEq/L
   27.0 %
   18.3 K/uL
        [image002.jpg]
                             [**2125-1-24**]  03:15 AM
                             [**2125-1-24**]  10:21 AM
                             [**2125-1-24**]  12:20 PM
                             [**2125-1-25**]  04:00 AM
   WBC
   22.8
   18.3
   Hct
   29.1
   24
   27.0
   Plt
   337
   306
   Cr
   0.6
   0.7
   TCO2
   42
   42
   Glucose
   85
   69
   Other labs: CK / CKMB / Troponin-T:527//, Differential-Neuts:79.0 %,
   Band:9.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L,
   Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: iron studies pending
   lactate 0.8
   Imaging: rotated, assymetric, small volumes, haxy r base likely
   exhalation film, possibly small eff, no focal infiltrate
   Microbiology: urine cx--pseudomonasm sensieis pending
   blood cxs pending
   Assessment and Plan
   29 yo female with history of paraplegia and chronic bladder
   dysfunction, recent placement of R ureteral stent, admit for elective
   procedure to provide stent replacement and lithotripsy with
   post-procedure urosepsis.
 SEPSIS WITHOUT ORGAN DYSFUNCTION
urosepsis, pyelo now growing
   pseudomonas in urine, blood pending,
      - continue Vanco ceftaz, f/u cx data,  d/c vanco once final cx data
   returns, if no GP's
      - Lactate normalized, hemodynamically stable off pressors
      - Central access with picc
 H/O NEPHROLITHIASIS (KIDNEY STONES)
   stent in place, known stones, urology following
   Pain control
   # Cardiac ectopy-- irritable myocardium in setting of pressors,
   infection, hypoxia with removal of nc also likely contributing
         Wide complex NSVT,
         Check lytes, low suspicion of ischemia but check cards enzymes,
   no indication for ep consult, though would reassess if longer runs
   occur,
         TTE
   #Leukocytosis
improving w/ appropriate  antibx as above
   # Anemia
anemia w/u pending, h/h remain near baseline in setting of
   IVFs
   # Respiratory
   Suspect chronic CO2 retention [**12-23**] restriction and hypoventilation
   minimal nc requirement
and desats are most likely related to
   restriction from hypoventilation, and fluids/volume
   TTE as above
   # Delta MS--much improved, appears at baseline
   # [**Hospital1 **]-polar disorder
   home regimen
   #chronic pain/torticolus
continue home regimen but monitor closely as
   methadone and muscle relactants likely impacted BP and MS
   ICU Care
   Nutrition:
   Comments: diet w/ supervision
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   16 Gauge - [**2125-1-23**] 08:00 PM
   20 Gauge - [**2125-1-23**] 08:00 PM
   PICC Line - [**2125-1-24**] 02:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : watch for several hours off pressors, and if BP stable
   can transfer to floor
   Total time spent: 40 minutes

2125-01-26 11:39:00 Physician Attending Progress Note
Chief Complaint: urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   NSVT resolved with cessation of pressors and supp of lytes, occ pvc's
   on monitor
   remained agitation overnight
   stable off pressors from bp standpoint
   echo unremarkable
   History obtained from Patient, house staff
   Allergies:
   Latex
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2125-1-26**] 08:00 AM
   Ceftazidime - [**2125-1-26**] 08:26 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-1-25**] 10:00 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-26**] 11:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 105 (63 - 105) bpm
   BP: 105/64(74) {85/45(56) - 109/71(133)} mmHg
   RR: 22 (7 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,173 mL
                                                                    863 mL
   PO:
                                                                    820 mL
                                                                    450 mL
   TF:
   IVF:
                                                                  2,353 mL
                                                                    413 mL
   Blood products:
   Total out:
                                                                  2,850 mL
                                                                  1,270 mL
   Urine:
                                                                  2,850 mL
                                                                  1,270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    323 mL
                                                                   -407 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97% (3L)
   ABG: ///37/
   Physical Examination
   General Appearance: No acute distress, turticolus
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: No(t) Symmetric), (Breath Sounds:
   No(t) Clear : , Diminished: ), rotated, unable to coop w/ exam
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   257 K/uL
   86 mg/dL
   0.6 mg/dL
   37 mEq/L
   3.8 mEq/L
   7 mg/dL
   95 mEq/L
   142 mEq/L
   24.0 %
   14.4 K/uL
        [image002.jpg]
                             [**2125-1-24**]  03:15 AM
                             [**2125-1-24**]  10:21 AM
                             [**2125-1-24**]  12:20 PM
                             [**2125-1-25**]  04:00 AM
                             [**2125-1-25**]  04:39 PM
                             [**2125-1-26**]  05:02 AM
   WBC
   22.8
   18.3
   14.4
   Hct
   29.1
   24
   27.0
   24.0
   Plt
   [**Telephone/Fax (3) 1433**]
   Cr
   0.6
   0.7
   0.6
   TropT
   0.01
   <0.01
   <0.01
   TCO2
   42
   42
   Glucose
   85
   69
   86
   Other labs: PT / PTT / INR:14.9/37.4/1.3, CK / CKMB /
   Troponin-T:184/3/<0.01, Differential-Neuts:79.0 %, Band:9.0 %,
   Lymph:8.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L, Ca++:8.0
   mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: high ferritin, low iron, low tibc
   Imaging: TTE [**1-25**]--unremarkable nl lv fx
   Microbiology: urine cx--enteroccocus, e coli, pseudomonas
      sensies back
   bl ngtd
   Assessment and Plan
   29 yo female with history of paraplegia and chronic bladder
   dysfunction, recent placement of R ureteral stent, admit for elective
   procedure to provide stent replacement and lithotripsy with
   post-procedure urosepsis.
 SEPSIS WITHOUT ORGAN DYSFUNCTION
urosepsis, now stable X > 24 hrs off
   pressor support
        -   multiple bacteria in urine, sensitivies back, change coverage
   to amp/gent (day 4 of approp coverage), blood negative,
            has stones and stents, pending urology input regarding plan of
   lithotrypsy will determine length of course ( 14 days or longer)
        -  Central access with picc
 H/O NEPHROLITHIASIS (KIDNEY STONES)
   stent in place, known stones, urology following, as above
   Pain control
   > Cardiac ectopy-- irritable myocardium in setting of pressors,
   infection, hypoxia with removal of nc also likely contributing
       NSVT resolved, echo and ekg nl
   > Leukocytosis
improving w/ appropriate antibx as above
   > Anemia
h/h remain near baseline in setting of IVFs, likely dilutional
   component without evidence of bleeding, can follow
   iron studies c/w with chronic ds likely infection related, repeat h/t
   today, and check hemolysis labs
   > Respiratory
   chronic CO2 retention [**12-23**] restriction and hypoventilation
   minimal nc requirement
and desats are most likely related to
   restriction from hypoventilation, and fluids/volume
   >  Delta MS--much improved, appears at baseline
   > [**Hospital1 **]-polar disorder
   home regimen
   > chronic pain/torticolus
continue home regimen but monitor closely as
   methadone and muscle relactants likely impacted BP and MS
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   16 Gauge - [**2125-1-23**] 08:00 PM
   20 Gauge - [**2125-1-23**] 08:00 PM
   PICC Line - [**2125-1-24**] 02:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor to urology service
   Total time spent: 40 minutes

2125-01-27 07:37:00 Physician Resident Progress Note
Chief Complaint: Urosepsis
   24 Hour Events:
 CALLED OUT
   -- intially started on amp/gent, then switched to zosyn by urology/ID
   -- PM hct stable, no evidence of hemolysis
   -- Called out to urology, still in unit, likely d/c today to [**Hospital1 169**]
   Allergies:
   Latex
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2125-1-26**] 08:00 AM
   Ceftazidime - [**2125-1-26**] 04:00 PM
   Gentamicin - [**2125-1-26**] 04:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2125-1-26**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-1-26**] 09:55 PM
   Lorazepam (Ativan) - [**2125-1-26**] 11:43 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Neurologic: right hemiparesis
   Psychiatric / Sleep: Agitated
   Flowsheet Data as of  [**2125-1-27**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 66 (51 - 105) bpm
   BP: 108/52(67) {98/51(62) - 115/80(88)} mmHg
   RR: 16 (12 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,740 mL
                                                                    195 mL
   PO:
                                                                  1,900 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    840 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  3,610 mL
                                                                  1,135 mL
   Urine:
                                                                  3,610 mL
                                                                  1,135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -870 mL
                                                                   -940 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///42/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   292 K/uL
   9.2 g/dL
   77 mg/dL
   0.6 mg/dL
   42 mEq/L
   3.6 mEq/L
   7 mg/dL
   91 mEq/L
   137 mEq/L
   26.8 %
   11.8 K/uL
        [image002.jpg]
                             [**2125-1-24**]  03:15 AM
                             [**2125-1-24**]  10:21 AM
                             [**2125-1-24**]  12:20 PM
                             [**2125-1-25**]  04:00 AM
                             [**2125-1-25**]  04:39 PM
                             [**2125-1-26**]  05:02 AM
                             [**2125-1-26**]  03:37 PM
                             [**2125-1-27**]  05:12 AM
   WBC
   22.8
   18.3
   14.4
   11.8
   Hct
   29.1
   24
   27.0
   24.0
   25.6
   26.8
   Plt
   [**Telephone/Fax (3) 1459**]92
   Cr
   0.6
   0.7
   0.6
   0.6
   TropT
   0.01
   <0.01
   <0.01
   TCO2
   42
   42
   Glucose
   85
   69
   86
   77
   Other labs: PT / PTT / INR:14.9/37.4/1.3, CK / CKMB /
   Troponin-T:184/3/<0.01, Alk Phos / T Bili:/0.2, Differential-Neuts:79.0
   %, Band:9.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:0.8
   mmol/L, LDH:206 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   A/P Pt is a 29 y/o female s/p MVA, toricollus, recent admit w/
   pyelonephritis w/ placement of urethral stent and treatment w/
   amp/gent-->cipro, readmitted for elective cystoscopy, right retrograde
   ureteroscopy and right stent placement, w/ frank pus drainage, becoming
   febrile and hypotensive.
   # Urosepsis: Purulent drainage uring ureteroscopy and stent
   replacement, w/ fever, hypotension, and tachycardia following urologic
   manipulation. Acute urosepsis likely cause from transient bacteremia.
   Treatment geared towards acute pyelonephritis complicated w/ an
   indwelling hardware.  Patient was hypotensive yesterday, started on
   dopamine, then switched to levo once access established.  Pressures in
   80s overnight while off pressors, so restarted.  Now off pressors, w/
   SBP in mid 90s, patient asx.
   -- f/u urine Cx showing pseudamononas, ecoli, enterococcus.  Cont
   vanc/ceftaz, switch from ceftaz to zosyn in clinically worsens.  If
   enterococcus amp sensitive, can d/c vanc.
   -- f/u blood cx and sensitivities
   -- tylenol for fever
   -- continue to monitor pressures, patient's blood pressure currently
   stable w/ aggressive fluid recessitation and off  pressors.  [**Month (only) 60**] need
   to add pressors back on if remains < 90 systolic.
   #VT/SVT w/ abarency: not not adequatly captured on EKG, appears more
   like VT.  Electroyletes repleated, PICC in SVC, taken off levophed, CE
   sent.  Resolved w/ these measures.  Patient asx throughout episodes,
   adequate mentation and pulse.  Getting an Echo to evaluate for
   structural heart disease, especially given patients low O2 sats and
   hypercapnea on ABG.
   # Toricollus:
   -- continue patients outpatient baclofen for spastic paralysis.
   -- continue outpatient gabapentin / methadone for pain
   -- continue tizanidine
   # Kidney stone: had to abort lithotripsy [**12-23**] to pyenonephritis.
   continue to monitor to see if needs increased medication for pain
   control. Will avoid at this time.
   # Psych: continue depakote, prozack, and valium
   maintian on 1:1 for attention to constant patient needs
   # FEN: replete K+ / Mg+
   Regular Diet
   # PPx: PPI/ bowel regimen, sc heparin
   # Full Code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-1-24**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-01-27 13:13:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   29 urosepsis, hemiparalysis following MVC.
   24 Hour Events:
   Being discharged to [**Hospital1 169**] today
   Grew e coli, enterococcus, pseudomonas in urine.
   Sensitivities reported on urine culture - Abx changed to Zosyn
   Repeat urine culture on [**1-24**] - no growth
   Allergies:
   Latex
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2125-1-26**] 08:00 AM
   Ceftazidime - [**2125-1-26**] 04:00 PM
   Gentamicin - [**2125-1-26**] 04:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2125-1-26**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-1-26**] 09:55 PM
   Lorazepam (Ativan) - [**2125-1-26**] 11:43 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: [**3-27**] ModeratePain location: neck and back
   Flowsheet Data as of  [**2125-1-27**] 01:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 66 (51 - 80) bpm
   BP: 108/52(67) {98/51(62) - 115/80(88)} mmHg
   RR: 16 (13 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,740 mL
                                                                    488 mL
   PO:
                                                                  1,900 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    840 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                  3,610 mL
                                                                  1,135 mL
   Urine:
                                                                  3,610 mL
                                                                  1,135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -870 mL
                                                                   -647 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///42/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Torticollis
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   292 K/uL
   159
   0.6 mg/dL
   42 mEq/L
   3.6 mEq/L
   7 mg/dL
   91 mEq/L
   137 mEq/L
   26.8 %
   11.8 K/uL
        [image002.jpg]
                             [**2125-1-24**]  03:15 AM
                             [**2125-1-24**]  10:21 AM
                             [**2125-1-24**]  12:20 PM
                             [**2125-1-25**]  04:00 AM
                             [**2125-1-25**]  04:39 PM
                             [**2125-1-26**]  05:02 AM
                             [**2125-1-26**]  03:37 PM
                             [**2125-1-27**]  05:12 AM
                             [**2125-1-27**]  09:00 AM
   WBC
   22.8
   18.3
   14.4
   11.8
   Hct
   29.1
   24
   27.0
   24.0
   25.6
   26.8
   Plt
   [**Telephone/Fax (3) 1459**]92
   Cr
   0.6
   0.7
   0.6
   0.6
   TropT
   0.01
   <0.01
   <0.01
   TCO2
   42
   42
   Glucose
   85
   69
   86
   77
   159
   Other labs: PT / PTT / INR:14.9/37.4/1.3, CK / CKMB /
   Troponin-T:184/3/<0.01, Alk Phos / T Bili:/0.2, Differential-Neuts:79.0
   %, Band:9.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:0.8
   mmol/L, LDH:206 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   A/P Pt is a 29 y/o female s/p MVA, toricollus, recent admit w/
   pyelonephritis w/ placement of urethral stent and treatment w/
   amp/gent-->cipro, readmitted for elective cystoscopy, right retrograde
   ureteroscopy and right stent placement, w/ frank pus drainag. Was
   febrile and hypotensive.
   # Urosepsis: purulent drainage during ureteroscopy and stent
   replacement, w/ fever, hypotension, and tachycardia following urologic
   manipulation. Acute urosepsis likely cause from transient bacteremia.
   Treatment geared towards acute pyelonephritis complicated w/ an
   indwelling hardware.  Patient was hypotensive initially requiring
   pressors, none x 3 days.  SBP 98-115.
   -- urine Cx grew pseudamononas, ecoli, enterococcus. Abx chagned to
   Zosyn per ID.  If enterococcus amp sensitive, can d/c vanc.
   #VT/SVT w/ abarency: not not adequatly captured on EKG, appears more
   like VT.  Electroyletes repleated, PICC in SVC, taken off levophed, CE
   sent.  Resolved w/ these measures.  Patient asx throughout episodes,
   adequate mentation and pulse.  Echo was unremarkable EF 70%
   # Toricollus:
   -- continue patients outpatient baclofen for spastic paralysis.
   -- continue outpatient gabapentin / methadone for pain
   -- continue tizanidine
   # Kidney stone: had to abort lithotripsy [**12-23**] to pyenonephritis.
   continue to monitor to see if needs increased medication for pain
   control. Will avoid at this time.
   # Psych: continue depakote, prozack, and valium. Mental status at
   baseline per urology who know her well.
    # FEN: replete K+
    Regular Diet
    # PPx: PPI/ bowel regimen, sc heparin
    # Full Code
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-1-24**] 02:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes